US08058441B2
(d). 1-Acetyl-6-(tert-butoxycarbonyl)amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline
A mixture of 1-acetyl-6-amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline (20 mg), (Boc)2O (30 mg) and N,N-diisopropylethylamine (20 μl) in tetrahydrofuran (4 ml) was stirred at 60° C. for 18 h. The reaction mixture was concentrated in vacuo and the residue was chromatographed on silicagel in dichloromethane/methanol=1/0=>95/5 (v/v) as eluent.

reactant | 1-acetyl-6-amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | 20 mg | C(C)(=O)N1C(CC(C2=CC(=CC=C12)N)(C)C1=CC=CC=C1)(C)C | C20H24N2O
reactant | (Boc)2O | 30 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | N,N-diisopropylethylamine | 20 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 1-Acetyl-6-(tert-butoxycarbonyl)amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | C(C)(=O)N1C(CC(C2=CC(=CC=C12)NC(=O)OC(C)(C)C)(C)C1=CC=CC=C1)(C)C | C25H32N2O3
